US03945998
2,4-Dimethyl-4-benzyloxymethyloxazoline (80 grams, prepared by a similar method to that described in Example 1) and potassium hydroxide (100 grams) in aqueous ethanol were heated together under reflux for 4 days. The volume of the reaction mixture was reduced under reduced pressure and water (300 milliliters) was then added. The aqueous mixture was extracted with ether (3 × 250 milliliters) and the extracts dried and the solvent removed under reduced pressure. The residue was distilled under reduced pressure to give 2-amino-3-benzyloxy-2-methylpropanol as a colorless liquid, boiling point 128°-129°C at 1.1 Torr.

reactant | 2,4-Dimethyl-4-benzyloxymethyloxazoline | CC=1OCC(N1)(COCC1=CC=CC=C1)C | C13H17NO2
reactant | potassium hydroxide | 100 grams | [OH-].[K+]
reactant | water | 300 milliliters | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-3-benzyloxy-2-methylpropanol | NC(CO)(COCC1=CC=CC=C1)C | C11H17NO2
